US08372866B2
2b) 2-(4-methoxyphenyl)-6-amino-4H-1-benzopyran-4-one
To a suspension of 2-(4-methoxyphenyl)-6-acetamido-4H-1-benzopyran-4-one, 5 g (0.016 mol) in ethanol (solution 80% in water) (70 mL) was added H2SO4 30% (25 mL) and the mixture was stirred under reflux for 4 hours. After cooling, aqueous NaOH was added until pH 10, and the mixture was extracted with dichloromethane, washed with water, dried and evaporated. Yield: 97%; TLC (85/25/2/1 Chloroform/Methanol/Water/Ammonia) Rf: 0.82.

reactant | 2-(4-methoxyphenyl)-6-acetamido-4H-1-benzopyran-4-one | COC1=CC=C(C=C1)C=1OC2=C(C(C1)=O)C=C(C=C2)NC(C)=O | C18H15NO4
reactant | H2SO4 | 25 mL | OS(=O)(=O)O | H2O4S
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 2-(4-methoxyphenyl)-6-amino-4H-1-benzopyran-4-one | Yield: 97% | COC1=CC=C(C=C1)C=1OC2=C(C(C1)=O)C=C(C=C2)N | C16H13NO3
